US05547949
Preparation of 2,6-bis(1,1-dimethylethylamino)-4-chloropyrimidine
A solution of 5.0 g 4,6-dichloro-2-(1,1-dimethylethylamino)pyrimidine in 25 ml of 1-amino-1,1-dimethylethane is heated in a closed tube at 130° C. for 15 hours. Then, the reaction mixture is evaporated and the residue is distributed between 80 ml of chloroform and 15 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 20 ml of water each, then dried and evaporated. After recrystallization from hexane the title compound is obtained in a yield of 5.45 g (93.4%), m.p.:128°-130° C.

reactant | 4,6-dichloro-2-(1,1-dimethylethylamino)pyrimidine | 5.0 g | ClC1=NC(=NC(=C1)Cl)NC(C)(C)C | C8H11Cl2N3
solvent | 1-amino-1,1-dimethylethane | 25 ml | NC(C)(C)C | C4H11N
product | 2,6-bis(1,1-dimethylethylamino)-4-chloropyrimidine | CC(C)(C)NC1=NC(=CC(=N1)Cl)NC(C)(C)C | C12H21ClN4
